US09062070B2
2-Fluoro-5-(1-hydroxyethyl)benzonitrile (0.80 g, 4.8 mmol) was dissolved in DCM (50 mL). To this mixture was added pyridinium dichromate (2.73 g, 7.27 mmol) and the mixture was stirred at RT overnight. Florisil (26 g) was added to the reaction mixture which was then diluted with 50 mL of ether and filtered through a pad of Celite. The filtrate was evaporated to dryness and the residue was purified by MPLC through a 120 g Redi-sep column, eluting with 0-100% EtOAc/hexane to yield 5-acetyl-2-fluorobenzonitrile.

reactant | 2-Fluoro-5-(1-hydroxyethyl)benzonitrile | 4.8 mmol, 0.80 g | FC1=C(C#N)C=C(C=C1)C(C)O | C9H8FNO
reactant | pyridinium dichromate | 7.27 mmol, 2.73 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Florisil | 26 g | [O-][Si](=O)[O-].[Mg+2]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 5-acetyl-2-fluorobenzonitrile | C(C)(=O)C=1C=CC(=C(C#N)C1)F | C9H6FNO
